US05552437
6-Bromopicolinic acid
To a suspension of 2,6-dibromopyridine (59 g, 0.25 mol) in ET2O (600 mL) at -70° C. there was added slowly n-BuLi 2.12M in hexanes (118 mL, 0.25 mol); the resulting mixture was stirred in the cold until a solution was obtained (45 min.); this mixture was poured onto a slurry of crushed dry ice (200 g) in ET2O (500 mL). The resulting suspension was allowed to warm up, then it was extracted with H2O (500 mL, then 250 mL). The combined aqueous extracts were extracted with Et2O, then acidified with 12N HCl, affording a precipitate which was filtered. This beige solid was washed with H2O and dried to afford the title acid (32 g), m.p. 186°-189° C.

reactant | 2,6-dibromopyridine | 0.25 mol, 59 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
reactant | n-BuLi | 2.12M | [Li]CCCC
reactant | dry ice | 200 g | C(=O)=O | CO2
product | 6-Bromopicolinic acid | 32 g | BrC1=CC=CC(=N1)C(=O)O | C6H4BrNO2
